US04221716
A solution of 46 grams (0.17 mol) of 3-chloro-1-methyl-7-benzoylindole in 250 ml of methoxy-ethanol and 60 ml of 70% phosphoric acid was heated at reflux under a nitrogen atmosphere for 5 hours. The solution was then cooled and diluted with 1.5 liters of water. The organic materials were extracted with methylene chloride and concentrated. The concentrated extract was chromatographed on silica gel and the product eluted with isopropyl ether. The residue obtained crystallized upon standing and was recrystallized from isopropyl alcohol to give 8.9 grams of 1-methyl-7-benzoylindolin-2-one, having a m.p. of 89°-90.5° C.

reactant | 3-chloro-1-methyl-7-benzoylindole | 0.17 mol, 46 grams | ClC1=CN(C2=C(C=CC=C12)C(C1=CC=CC=C1)=O)C | C16H12ClNO
reactant | methoxy-ethanol | 250 ml | COC(C)O | C3H8O2
solvent | phosphoric acid | 60 ml | P(O)(O)(O)=O | H3O4P
solvent | water | 1.5 liters | O | H2O
product | 1-methyl-7-benzoylindolin-2-one | 8.9 grams | CN1C(CC2=CC=CC(=C12)C(C1=CC=CC=C1)=O)=O | C16H13NO2
